US06300501B1
Step 1: (4-Benzyloxybenzylamino) Acetic Acid t-butyl Ester
To a mixture of glycine t-butyl ester hydrochloride (0.84 g, 5 mmol), and 4-benzyloxy-benzaldehyde (0.53 g, 2.5 mmol) in CH2Cl2 (25 mL) at 0° C. was added sodium triacetoxyborohydride (0.81 g, 3.8 mmol). The mixture was allowed to warm to room temperature and stirred overnight. Aqueous NaHCO3 was added, and the mixture was stirred for 30 minutes. The aqueous layer was extracted 3 times with CH2Cl2. The combined organic extracts were washed with brine, dried over MgSO4, and concentrated. Flash chromatography (ethyl acetate) gave 0.38 g (59%) of the title compound as a white solid.

reactant | glycine t-butyl ester hydrochloride | 5 mmol, 0.84 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | 4-benzyloxy-benzaldehyde | 2.5 mmol, 0.53 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | sodium triacetoxyborohydride | 3.8 mmol, 0.81 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | (4-Benzyloxybenzylamino) Acetic Acid t-butyl Ester | 0.38 g, 59% | C(C)(C)(C)OC(CNCC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C20H25NO3
